US09107414B2
1. Synthesis of 2-(2-nitro-4-(methylsulfonyl)benzoyl)-2-(1-methyl-1,2,4-triazol-5-yl)acetonitrile, (Table example No. 1-1)
263 mg (1.0 mmol) of 2-nitro-4-(methylsulfonyl)benzoyl chloride are added at 0° C. to 122 mg (1.0 mmol) of 2-(1-methyl-1,2,4-triazol-5-yl)acetonitrile and 258 mg (2 mmol) of diisopropylethylamine. The mixture is then stirred at room temperature for 16 h. 1 ml of methanol is then added and, after 15 min, 2N HCl is added. The mixture is extracted with dichloromethane, dried over Na2SO4, evaporated and purified by means of RP-HPLC (acetonitrile/water). Yield 156 mg (45%).

reactant | 2-nitro-4-(methylsulfonyl)benzoyl chloride | 1.0 mmol, 263 mg | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6ClNO5S
reactant | 2-(1-methyl-1,2,4-triazol-5-yl)acetonitrile | 1.0 mmol | CN1N=CN=C1CC#N | C5H6N4
reactant | diisopropylethylamine | 2 mmol, 258 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 2-(2-nitro-4-(methylsulfonyl)benzoyl)-2-(1-methyl-1,2,4-triazol-5-yl)acetonitrile | [N+](=O)([O-])C1=C(C(=O)C(C#N)C2=NC=NN2C)C=CC(=C1)S(=O)(=O)C | C13H11N5O5S
